### PR TITLE
fix(LocallyNameless): change multiApp to right-recursive 

### LINKED ISSUE #706: multiApp is wrong
```lean4
theorem foo {f a b: Term String} : multiApp f (a :: b :: []) = (f.app b).app a := by
  grind
```

Should we change the documentation or the definition?

I found it when proving
```lean4
theorem foo {f a: Term String} {l} : f.abs.LC -> a.LC -> multiApp f.abs (a :: l) ⭢ℓ  multiApp (f^a) l := by
  induction l generalizing f a with
  | nil => apply BetaAt.outer
  | cons head tail ih =>  intros _ _
                          unfold multiApp
                          sorry
```

@m-ow @chenson2018

### PR DESCRIPTION
**Pull request by lengyijun**
- Redefine `multiApp` as right-recursive (`multiApp (app f a) as`) instead of left.
- Switch several inductions to `List.reverseRecOn` for compatibility with the new recursion.
- Add `listFullBeta_cons_r`/`listFullBeta_cons_l`/`multiApp_tail`  helpers.
- Update related proofs

Fixes #706

### CODE REVIEW

**Comment by chenson2018** [comment]
Before I review, please fix the indentation.

**Comment by chenson2018** [comment]
@lengyijun Can you please let me know when you are ready for this to be reviewed? In general it is a bit unpleasant to open a PR and immediate force push nearly a dozen times (I get an email every time...). I would appreciate your being a bit more intentional in this regard.

**Comment by lengyijun** [comment]
Ready to review now

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean [hunk 1]
```diff
@@ -71,7 +71,8 @@ lemma semanticMap_saturated (τ : Ty Base) : @Saturated Var (semanticMap τ) :=
     · grind [sn_app_left (Var := Var) (N := fvar <| fresh {})]
     · grind
     · intro M N P _ _ _ s _
-      grind [ih₂.multiApp M N (s :: P)]
+      have := ih₂.multiApp M N (P ++ [s])
+      grind [multiApp_tail]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Stlc/StrongNorm.lean]: This can still be one line

```suggestion
      grind [ih₂.multiApp M N (P ++ [s]), multiApp_tail]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 2]
```diff
@@ -28,7 +28,7 @@ namespace LambdaCalculus.LocallyNameless.Untyped.Term
 @[simp, scoped grind =]
 def multiApp (f : Term Var) : List (Term Var) → Term Var
 | []      => f
-| a :: as => Term.app (multiApp f as) a
+| a :: as => multiApp (Term.app f a) as
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]: We're in the `Term` namespace already

```suggestion
| a :: as => multiApp (app f a) as
```
(could also use dot notation)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 3]
```diff
@@ -45,18 +45,23 @@ inductive ListFullBeta : List (Term Var) → List (Term Var) → Prop where
 
 variable {M M' : Term Var} {Ns Ns' : List (Term Var)}
 
+lemma multiApp_tail {N} : (M.multiApp (Ns ++ [N])) = Term.app (M.multiApp Ns) N:= by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]: If using the dot notation, use it for `app` too

```suggestion
lemma multiApp_tail {N} : (M.multiApp (Ns ++ [N])) = (M.multiApp Ns).app  N:= by
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 4]
```diff
@@ -66,12 +71,18 @@ lemma steps_multiApp_l (steps : M ↠βᶠ M') (lc_Ns : ∀ N ∈ Ns, LC N) :
...
 lemma step_multiApp_r (steps : Ns ⭢lβᶠ Ns') (lc_M : LC M) : M.multiApp Ns ⭢βᶠ M.multiApp Ns' := by
-  induction steps <;> grind
+  induction steps generalizing M <;> grind
 
 /-- Congruence lemma for multiple reduction of one of the arguments of a multi-application -/
 lemma steps_multiApp_r (steps : Ns ↠lβᶠ Ns') (lc_M : LC M) : M.multiApp Ns ↠βᶠ M.multiApp Ns' := by
   induction steps <;> grind
 
+lemma listFullBeta_cons_r {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (l ++ Ns) ⭢lβᶠ (l ++ Ns')
+  := by induction l using List.reverseRecOn generalizing Ns Ns' with grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]:
```suggestion
lemma listFullBeta_cons_r {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (l ++ Ns) ⭢lβᶠ (l ++ Ns') := by
  induction l using List.reverseRecOn generalizing Ns Ns' with grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 5]
```diff
@@ -66,12 +71,18 @@ lemma steps_multiApp_l (steps : M ↠βᶠ M') (lc_Ns : ∀ N ∈ Ns, LC N) :
...
+
+lemma listFullBeta_cons_l {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (Ns ++ l) ⭢lβᶠ (Ns' ++ l)
+  := by induction h with grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]:
```suggestion
lemma listFullBeta_cons_l {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (Ns ++ l) ⭢lβᶠ (Ns' ++ l) := by
  induction h with grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 6]
```diff
@@ -86,16 +97,32 @@ lemma invert_abs_multiApp_st {Ps} {M N Q : Term Var}
...
+        · grind [multiApp_tail]
+        · right
+          right
+          left
+          refine ⟨Ps' ++ [P], listFullBeta_cons_l h ?_, ?_⟩
+          all_goals grind [multiApp_tail]
+        · grind [multiApp_tail]
+    | base =>
+        exfalso
+        induction Ps using List.reverseRecOn generalizing M N with grind [multiApp_tail]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]:
```suggestion
    | @appL _ _ P' _ P_P' =>
      have : (Ps ++ [P]) ⭢lβᶠ Ps ++ [P'] := by apply listFullBeta_cons_r (.step P_P' ?_) <;> grind
      grind [multiApp_tail]
    | appR _ h =>
      have {Ps'} (h : Ps ⭢lβᶠ Ps') : (Ps ++ [P]) ⭢lβᶠ Ps' ++ [P] := listFullBeta_cons_l h (by grind)
      grind [multiApp_tail]
    | base => induction Ps using List.reverseRecOn with grind [multiApp_tail]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean [hunk 7]
```diff
@@ -124,36 +124,41 @@ lemma sn_abs_app_multiApp [DecidableEq Var] [HasFresh Var] {Ps} {M N : Term Var}
...
+      cases lc_MNPs
+      grind [sn_app_left]
+    · rw [multiApp_tail] at sn_MNPs
+      grind [sn_app_right]
     · intro Q' P' hstep1 hstep2
       have ⟨M', N', Ps', h_M_red, h_N_red, h_Ps_red, h_cases⟩ := invert_abs_multiApp_mst hstep1
       rcases h_cases with h_P | ⟨h_st1, h_st2⟩
-      · cases Ps' with grind
+      · exfalso
+        induction Ps' using List.reverseRecOn generalizing M' N' with grind [multiApp_tail]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean]: In general, you don't need to write `exfalso` when using `grind`

```suggestion
      · induction Ps' using List.reverseRecOn with grind [multiApp_tail]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean [hunk 8]
```diff
@@ -124,36 +124,41 @@ lemma sn_abs_app_multiApp [DecidableEq Var] [HasFresh Var] {Ps} {M N : Term Var}
...
+  | append_singleton Ps P ih =>
+    rw [multiApp_tail]
     apply sn_app
-    · cases lc_MNPs with grind [sn_app_left]
-    · grind [sn_app_right]
+    · rw [multiApp_tail] at *
+      cases lc_MNPs
+      grind [sn_app_left]
+    · rw [multiApp_tail] at sn_MNPs
+      grind [sn_app_right]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean]:
```suggestion
    · grind [cases LC, multiApp_tail, sn_app_left]
    · grind [multiApp_tail, sn_app_right]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean [hunk 9]
```diff
@@ -66,12 +71,18 @@ lemma steps_multiApp_l (steps : M ↠βᶠ M') (lc_Ns : ∀ N ∈ Ns, LC N) :
...
 
 /-- Congruence lemma for multiple reduction of one of the arguments of a multi-application -/
 lemma steps_multiApp_r (steps : Ns ↠lβᶠ Ns') (lc_M : LC M) : M.multiApp Ns ↠βᶠ M.multiApp Ns' := by
   induction steps <;> grind
 
+lemma listFullBeta_cons_r {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (l ++ Ns) ⭢lβᶠ (l ++ Ns') := by
+  induction l using List.reverseRecOn generalizing Ns Ns' with grind
+
+lemma listFullBeta_cons_l {l} (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (Ns ++ l) ⭢lβᶠ (Ns' ++ l) := by
+  induction h with grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/MultiApp.lean]: I made a typo here in the suggestions, I meant:

```suggestion
lemma listFullBeta_cons_r (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (l ++ Ns) ⭢lβᶠ (l ++ Ns') := by
  induction l using List.reverseRecOn generalizing Ns Ns' with grind

lemma listFullBeta_cons_l (h : Ns ⭢lβᶠ Ns') (h_lc : ∀ M ∈ l, LC M) : (Ns ++ l) ⭢lβᶠ (Ns' ++ l) := by
  induction h with grind
```

**Comment by chenson2018** [comment]
@lengyijun Can I ask if it is intentional that you have turned off the feature allowing maintainers to edit pull requests? This is completely your prerogative, but it does make it take longer to fix little typos like the above. I'd normally have just pushed it myself and merged at this point.

**Comment by lengyijun** [comment]
I am not familiar with this configuration.
Maybe because this is a pr from organization ?

**Comment by chenson2018** [comment]
Hmm, maybe so. Usually there is a checkbox for "Allow edits by maintainers" that is selected by default. Maybe look for this next time you open a PR.

**Review by chenson2018 — APPROVED** [review]
Thanks for finding and fixing this so quickly!
